* SPICE netlist generated by Yosys 0.35+36 (git sha1 c95298225, gcc 11.4.0-1ubuntu1~22.04 -fPIC -Os)

X0 inverted_thermometer.9 1 sky130_fd_sc_hs__clkinv_1
X1 inverted_thermometer.11 inverted_thermometer.10 2 sky130_fd_sc_hs__nand2_1
X2 inverted_thermometer.9 inverted_thermometer.8 inverted_thermometer.11 inverted_thermometer.10 3 sky130_fd_sc_hs__nand4_1
X3 inverted_thermometer.13 inverted_thermometer.12 inverted_thermometer.15 inverted_thermometer.14 4 sky130_fd_sc_hs__nand4_1
X4 inverted_thermometer.1 inverted_thermometer.0 5 sky130_fd_sc_hs__nor2_1
X5 inverted_thermometer.3 inverted_thermometer.1 inverted_thermometer.0 6 sky130_fd_sc_hs__nor3_1
X6 inverted_thermometer.4 inverted_thermometer.5 7 sky130_fd_sc_hs__nor2_1
X7 inverted_thermometer.4 inverted_thermometer.5 inverted_thermometer.6 8 sky130_fd_sc_hs__nor3_1
X8 inverted_thermometer.2 inverted_thermometer.3 inverted_thermometer.1 inverted_thermometer.0 9 sky130_fd_sc_hs__or4_1
X9 inverted_thermometer.4 inverted_thermometer.5 inverted_thermometer.7 inverted_thermometer.6 10 sky130_fd_sc_hs__or4_1
X10 4 9 10 11 sky130_fd_sc_hs__nor3_1
X11 3 4 9 10 12 sky130_fd_sc_hs__nor4_1
X12 inverted_thermometer.2 3 4 13 sky130_fd_sc_hs__nor3_1
X13 inverted_thermometer.2 3 4 14 6 sky130_fd_sc_hs__nor4b_1
X14 inverted_thermometer.4 inverted_thermometer.5 inverted_thermometer.7 inverted_thermometer.6 15 sky130_fd_sc_hs__and4_1
X15 14 15 16 sky130_fd_sc_hs__nand2_1
X16 inverted_thermometer.9 inverted_thermometer.8 inverted_thermometer.10 17 sky130_fd_sc_hs__nor3_1
X17 inverted_thermometer.9 inverted_thermometer.8 inverted_thermometer.11 inverted_thermometer.10 18 sky130_fd_sc_hs__or4_1
X18 inverted_thermometer.7 inverted_thermometer.6 7 14 19 sky130_fd_sc_hs__nand4_1
X19 inverted_thermometer.8 2 20 sky130_fd_sc_hs__nor2_1
X20 11 20 21 sky130_fd_sc_hs__nand2_1
X21 inverted_thermometer.13 inverted_thermometer.12 inverted_thermometer.14 22 sky130_fd_sc_hs__nor3_1
X22 9 10 18 23 22 sky130_fd_sc_hs__nor4b_1
X23 23 24 inverted_thermometer.15 sky130_fd_sc_hs__nand2b_1
X24 inverted_thermometer.15 inverted_thermometer.14 25 inverted_thermometer.12 sky130_fd_sc_hs__nand3b_1
X25 9 10 18 25 26 sky130_fd_sc_hs__or4_1
X26 4 9 10 18 27 sky130_fd_sc_hs__nor4_1
X27 28 1 11 27 12 20 sky130_fd_sc_hs__a311oi_1
X28 29 15 14 inverted_thermometer.13 26 sky130_fd_sc_hs__a2bb2oi_1
X29 19 24 28 29 binary.0 sky130_fd_sc_hs__nand4_1
X30 30 11 17 23 sky130_fd_sc_hs__a21oi_1
X31 31 inverted_thermometer.7 6 12 8 13 sky130_fd_sc_hs__a41oi_1
X32 inverted_thermometer.3 5 13 15 32 sky130_fd_sc_hs__nand4_1
X33 16 30 31 32 binary.1 sky130_fd_sc_hs__nand4_1
X34 inverted_thermometer.7 inverted_thermometer.6 14 33 inverted_thermometer.4 sky130_fd_sc_hs__nand4b_1
X35 26 31 33 binary.2 23 sky130_fd_sc_hs__nand4b_1
X36 21 26 30 binary.3 sky130_fd_sc_hs__nand3_1

.lib /usr/local/share/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt

************************
* end of SPICE netlist *
************************

